US07153873B2
1-acetyl-3-cyclohexylamino-2-furan-2-yl-imidazo[1,2-a]pyrimidin-1-ium chloride
Example 13 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-pyrimidine (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) furfural solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-pyrimidine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=N1 | C4H5N3
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | furfural | 0.15 mmol, 0.3 M, 0.500 ml | C(C1=CC=CO1)=O | C5H4O2
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-3-cyclohexylamino-2-furan-2-yl-imidazo[1,2-a]pyrimidin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1N=CC=C2)NC2CCCCC2)C=2OC=CC2 | InChI=1S/C18H21N4O2.ClH/c1-13(23)22-16(15-9-5-12-24-15)17(20-14-7-3-2-4-8-14)21-11-6-10-19-18(21)22;/h5-6,9-12,14,20H,2-4,7-8H2,1H3;1H/q+1;/p-1
